resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.008111
R2 0 n2 1.015339
R3 0 n4 0.125281
R4 n1 n3 0.985667
R5 n1 n5 1.017782
R6 n2 n3 0.995696
R7 n2 n6 0.986586
R8 n3 n7 0.985861
R9 n4 n5 1.004884
R10 n4 n6 1.004237
R11 n5 n7 0.982927
R12 n6 n7 0.995592
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
